US09163020B2
N-(2-hydroxyethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 18(a). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (1 g, 3.35 mmol) was taken in DCM (20 mL) to get a suspension. Triethyl amine (1.394 mL, 10.06 mmol) was added followed by the addition of 1-Propanephosphonic acid cyclic anhydride (3.991 mL, 6.70 mmol). The reaction mass was stirred at RT for 5 minutes. Ethanol amine (6.02 mL, 10.06 mmol) was added and stirred at RT for 2 h. After completion of the reaction, diluted with DCM and then washed with water and brine solution. The organic layer was separated, dried, evaporated and the crude compound was purified by silica gel chromatography. Yield-45%. ES+MS m/z: 342 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.24 (s. 3 H ) 3.37-3.64 (m, 4 H ) 3.94 (s, 3 H ) 4.80 (t, J=4.99 Hz, 1 H ) 5.67 (s, 2 H ) 7.24 (dd, J=8.29, 4.52 Hz, 1 H ) 7.92 (d, J=8.10 Hz, 1 H ) 8.23 (s, 1 H ) 8.41 (s, 1 H ) 8.47 (d, J=4.52 Hz, 1 H ) 8.85 (t, J=5.37 Hz, 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 3.35 mmol, 1 g | COC1=C(C(=NC=N1)CN1C=C(C2=NC=CC=C21)C(=O)O)C | C15H14N4O3
reactant | Triethyl amine | 10.06 mmol, 1.394 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 6.70 mmol, 3.991 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | Ethanol amine | 10.06 mmol, 6.02 mL | C(O)CN | C2H7NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-45% | OCCNC(=O)C1=CN(C=2C1=NC=CC2)CC2=NC=NC(=C2C)OC | C17H19N5O3
